US08754114B2
Step 1: 7-chloroimidazo[1,2-b]pyridazine
A mixture of 3,5-dichloropyridazine (1.49 g, 10.0 mmol, Maybridge, MO08501), benzophenone imine (2.01 g, 11.1 mmol, Aldrich, Cat. No. 293733), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (208 mg, 0.360 mmol), tris(dibenzylideneacetone)dipalladium(0) (165 mg, 0.180 mmol) and 1,4-dioxane (30 mL) was degassed and recharged with nitrogen for three times, and was heated and stirred at 90° C. overnight. After cooling, the mixture was filtered through a pad of silica gel, and washed with THF. [LCMS (M+H)+: m/z=294.1/296.0 corresponds to 5-chloro-N-(diphenylmethylene)pyridazin-3-amine]. The filtrate was treated with 3 N HCl aq. (6 ml) at RT and stirred for 30 min. The mixture was adjusted with NaOH (2 N) to pH=7. The resulting mixture was concentrated under reduced pressure to about the volume of 30 mL. [LCMS (M+H)+: m/z=130.1/132.0 corresponds to 5-chloropyridazin-3-amine]. Isopropanol (50 mL) and chloroacetaldehyde (10.0 mL, 78.7 mmol) was added to the solution. The mixture was heated and stirred at 90° C. for 5 h. After cooling, the mixture was concentrated under reduced pressure. The residue was diluted with ethyl acetate, and extracted with water. The combined aqueous layers were adjusted to about pH=9 with 1 N NaOH aq. Solution. The resulting solution was extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to afford the desired product (0.988 g, 64.3%) which was directly used in next step reaction without further purification. LCMS (M+H)+: m/z=153.9/155.9.

reactant | 3,5-dichloropyridazine | 10.0 mmol, 1.49 g | ClC=1N=NC=C(C1)Cl | C4H2Cl2N2
reactant | benzophenone imine | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
reactant | chloroacetaldehyde | 78.7 mmol, 10.0 mL | ClCC=O | C2H3ClO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.180 mmol, 165 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.360 mmol, 208 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | Isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 7-chloroimidazo[1,2-b]pyridazine | 0.988 g, 64.3% | ClC1=CC=2N(N=C1)C=CN2 | C6H4ClN3
